US08809339B2
3-(acetylthiomethyl)benzoic acid
Into a 250-mL round bottom flask, was placed a solution of 3-(bromomethyl)benzoic acid (7 g, 32.56 mmol, 1.00 equiv) in ethanol (80 mL), and potassium ethanethioate (9.65 g, 84.65 mmol, 2.60 equiv). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 80 mL of water and adjusted to pH 3-4 with 10% hydrochloric acid. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined, washed with 1×50 mL of brine, dried over sodium sulfate, and concentrated under vacuum. This resulted in 4.4 g (64%) of 3-(acetylthiomethyl)benzoic acid as a brown solid.

reactant | 3-(bromomethyl)benzoic acid | 32.56 mmol, 7 g, 1.00 equiv | BrCC=1C=C(C(=O)O)C=CC1 | C8H7BrO2
reactant | potassium ethanethioate | 84.65 mmol, 9.65 g, 2.60 equiv | C(C)([O-])=S.[K+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 3-(acetylthiomethyl)benzoic acid | C(C)(=O)SCC=1C=C(C(=O)O)C=CC1 | C10H10O3S
